US20010053851A1
A solution of 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester (2.15 g, 6.00 mmol) and triethylamine (6 mL, 0.04 mmol) in N,N-dimethylformamide (6 mL) was treated with propargyl alcohol (0.87 mL, 15.0 mmol). The resulting reaction mixture was degassed with argon and then treated with cooper iodide (30 mg, 0.15 mmol) and bis(triphenylphosphine)palladium (II) chloride (45 mg, 0.06 mmol). The reaction was then heated at 70° C. for 24 h. At this time, the reaction was cooled to 25° C. and concentrated in vacuo. The residue was diluted with ethyl acetate (120 mL) and washed with a half-saturated aqueous sodium chloride solution (1×60 mL). The resulting aqueous layer was back extracted with ethyl acetate (1×120 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 60/40 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-propionic acid methyl ester (1.57 g, 91%) as an amber oil.

reactant | 3-cyclopentyl-2-(4-iodo-phenyl)-propionic acid methyl ester | 6.00 mmol, 2.15 g | COC(C(CC1CCCC1)C1=CC=C(C=C1)I)=O | C15H19IO2
reactant | propargyl alcohol | 15.0 mmol, 0.87 mL | C(C#C)O | C3H4O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium (II) chloride | 0.06 mmol, 45 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | triethylamine | 0.04 mmol, 6 mL | C(C)N(CC)CC | C6H15N
catalyst | iodide | 0.15 mmol, 30 mg | [I-]
product | 3-cyclopentyl-2-[4-(3-hydroxy-prop-1-ynyl)-phenyl]-propionic acid methyl ester | 1.57 g, 91% | COC(C(CC1CCCC1)C1=CC=C(C=C1)C#CCO)=O | C18H22O3
